US05167949
e) 2-[(2,2,2-Trifluoroethoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section d of Example 2, starting with 5.0 g (0.0193 mole) of 4-amino-2-[(2,2,2-trifluoroethoxy)methyl]pteridine in 105 ml of 5% aqueous sodium hydroxide. Heating time: 1 hour 30 minutes at 80° C. Yld: 2.5 g (50%), m.p. 165°-167° C. (ethyl acetate).

reactant | 4-amino-2-[(2,2,2-trifluoroethoxy)methyl]pteridine | 0.0193 mole, 5.0 g | NC1=NC(=NC2=NC=CN=C12)COCC(F)(F)F | C9H8F3N5O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 105 ml | [OH-].[Na+]
product | 2-[(2,2,2-Trifluoroethoxy)methyl]-4(3H)-pteridinone | FC(COCC1=NC2=NC=CN=C2C(N1)=O)(F)F | C9H7F3N4O2
